US08975254B2
b) (E)-2-Chloro-4-((hydroxyimino) methyl)-3-methylbenzonitrile
2-chloro-4-formyl-3-methylbenzonitrile (5.0 g, 27.8 mmol) was dissolved in dry THF (60 ml). Pyridine (6.7 ml, 84.0 mmol) and hydroxylamine hydrochloride (3.87 g, 55.7 mmol) were added to the solution. The mixture was heated to 70° C. and stirred for 4 h. THF was evaporated and ice water (50 ml) was added. The mixture was stirred for 1 h and the precipitate was filtered off and washed twice with cold water. After drying (5.3 g) of the title compound was obtained. 1H-NMR (400 MHz; d6-DMSO): δ 2.48 (s, 3H), 7.79 (m, 2H), 8.45 (s, 1H), 11.93 (s, 1H).

reactant | 2-chloro-4-formyl-3-methylbenzonitrile | 27.8 mmol, 5.0 g | ClC1=C(C#N)C=CC(=C1C)C=O | C9H6ClNO
reactant | Pyridine | 84.0 mmol, 6.7 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 55.7 mmol, 3.87 g | Cl.NO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (E)-2-Chloro-4-((hydroxyimino) methyl)-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)/C=N/O | C9H7ClN2O
